US08895580B2
Step 3: Preparation of 5{[2-fluoro-4-(1H-indol-5-yl)phenyl]methyl}-2-(2-fluorophenyl)-2,5-dihydro-3H-pyrazolo[4,3-c]quinolin-3-one
5-[(2-Fluoro-4-iodophenyl)methyl]-2-(2-fluorophenyl)-2,5-dihydro-3H-pyrazol[4,3-c]quinolin-3-one (51 mg, 0.10 mmol), 1H-indol-5-ylboronic acid (27 mg, 0.17 mmol, 1.7 equiv), potassium carbonate (34 mg, 0.25 mmol, 2.5 equiv), palladium(II) acetate (12 mg, 0.0010 mmol, 0.1 equiv) and 2-dicyclohexylphosphino-2′,4′,6′-tri-iso-propyl-1,1′-biphenyl (14 mg, 0.030 mmol, 0.3 equiv) were combined in water (0.1 mL) and dimethylsulfoxide (0.5 mL) and placed into a preheated oil bath at 85° C. for 90 minutes. The mixture was cooled to ambient temperature, filtered and purified by reverse phase HPLC (80:20 to 5:95; water containing 0.1% trifluoroacetic acid:acetonitrile containing 0.1% trifluoroacetic acid), providing the titled compound: 1H-NMR (400 MHz, d6-DMSO) δ 11.18 (1H, s), 9.11 (1H, s), 8.22 (1H, dd, J=7.9, 1.5 Hz), 7.85 (1H, s), 7.79 (1H, d, J=8.7 Hz), 7.68 (1H, ddd, J=8.5, 7.3, 1.6 Hz), 7.62 (1H, dd, J=7.9, 1.7 Hz), 7.60 (1H, br s), 7.57 (1H, s), 7.55 (1H, d, J=7.4 Hz), 7.49 (1H, dd, J=8.1, 1.8 Hz), 7.47-7.37 (4H, m), 7.34 (1H, td, J=7.5, 1.4 Hz), 7.28 (1H, t, J=8.2 Hz), 6.48-6.47 (1H, m), 5.83 (2H, s) ppm; low resolution mass spectrometry (ES+) m/z 503.1667 [(M+H)+; calculated for C31H21F2N4O: 503.1678].

reactant | 5-[(2-Fluoro-4-iodophenyl)methyl]-2-(2-fluorophenyl)-2,5-dihydro-3H-pyrazol[4,3-c]quinolin-3-one | 0.10 mmol, 51 mg | FC1=C(C=CC(=C1)I)CN1C=C2C(C=3C=CC=CC13)=NN(C2=O)C2=C(C=CC=C2)F | C23H14F2IN3O
reactant | 1H-indol-5-ylboronic acid | 0.17 mmol, 27 mg, 1.7 equiv | N1C=CC2=CC(=CC=C12)B(O)O | C8H8BNO2
reactant | potassium carbonate | 0.25 mmol, 34 mg, 2.5 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | 2-dicyclohexylphosphino-2′,4′,6′-tri-iso-propyl-1,1′-biphenyl | 0.030 mmol, 14 mg, 0.3 equiv | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
solvent | water | 0.1 mL | O | H2O
catalyst | palladium(II) acetate | 0.0010 mmol, 12 mg, 0.1 equiv | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | dimethylsulfoxide | 0.5 mL | CS(=O)C | C2H6OS
product | 5{[2-fluoro-4-(1H-indol-5-yl)phenyl]methyl}-2-(2-fluorophenyl)-2,5-dihydro-3H-pyrazolo[4,3-c]quinolin-3-one | FC1=C(C=CC(=C1)C=1C=C2C=CNC2=CC1)CN1C=C2C(C=3C=CC=CC13)=NN(C2=O)C2=C(C=CC=C2)F | C31H20F2N4O
